US07001900B2
Sodium hydride (151 mg, 60% in mineral oil, 3.77 mmol) is added to a stirring solution of 7-hydroxy-2-naphthonitrile (530 mg, 3.14 mmol) in DMSO (10 mL). After the bubbling subsides, benzyl bromide (448 μL, 3.77 mmol) is added and the resulting mixture is allowed to stir for 4 hours. The reaction mixture is poured into water and extracted with ether. The ether layer is dried (Na2SO4), filtered, and concentrated to dryness. The product is purified by column chromatography (step gradient, 25 to 50% CH2Cl2 in hexanes) to give 7-benzyloxy-2-naphthonitrile (735 mg, 90%) as a white solid. HRMS (EI) calculated for C18H13NO: 259.0997, found 259.0993.

reactant | Sodium hydride | 3.77 mmol, 151 mg | [H-].[Na+]
reactant | 7-hydroxy-2-naphthonitrile | 3.14 mmol, 530 mg | OC1=CC=C2C=CC(=CC2=C1)C#N | C11H7NO
reactant | benzyl bromide | 3.77 mmol, 448 μL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 7-benzyloxy-2-naphthonitrile | 735 mg, 90% | C(C1=CC=CC=C1)OC1=CC=C2C=CC(=CC2=C1)C#N | C18H13NO
